US07867461B2
A cerium oxide powder was produced in the same manner as described in Embodiment 1 except 0.5 mol of cerium nitrate was dissolved in a solution of 10 mL of water and 90 mL of ethanol, and then mixed with a solution in which 1.5 mol of urea solution was dissolved in a solution of 10 mL of water and 90 mL of ethanol to obtain a cerium carbonate powder. 1.5 kg of the cerium carbonate powder was placed into an alumina crucible and the decomposed material was removed by thermal treatment in an oxygen atmosphere at 300° C. for 24 hours to obtain 1.2 kg of oxide, which was then calcinated in an oxygen atmosphere at 700° C. for one hour. A cerium oxide powder having a crystal size of 24 nm, a specific surface area of 44 m2/g, a pore distribution, of pores less than and over 3 nm, of 33:67, and an average particle diameter of 68-510 nm, was obtained.

reactant | cerium nitrate | 0.5 mol | [N+](=O)([O-])[O-].[Ce+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | urea | 1.5 mol | NC(=O)N | CH4N2O
reactant | water | 10 mL | O | H2O
reactant | water | 10 mL | O | H2O
solvent | ethanol | 90 mL | C(C)O | C2H6O
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | cerium carbonate | C([O-])([O-])=O.[Ce+3].C([O-])([O-])=O.C([O-])([O-])=O.[Ce+3] | InChI=1S/3CH2O3.2Ce/c3*2-1(3)4;;/h3*(H2,2,3,4);;/q;;;2*+3/p-6
